US04599344
2-[3-(4-Chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride
Reflux 105.28 g (0.28 mole) 1-(4-chlorophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride in 500 ml concentrated hydrochloric acid for 5 hours. Stir with mechanical stirrer. Chill the reaction mixture in an ice bath and collect the title compound via filtration.

reactant | 1-(4-chlorophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride | 0.28 mole, 105.28 g | Cl.ClC1=CC=C(C=C1)C(C(C(C)=O)CC1N2CCC(C1=O)CC2)=O
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 2-[3-(4-Chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | Cl.ClC1=CC=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O | InChI=1S/C16H18ClNO2.ClH/c17-13-3-1-11(2-4-13)15(19)6-5-14-16(20)12-7-9-18(14)10-8-12;/h1-4,12,14H,5-10H2;1H
